US08022192B2
To a suspension of 1-acetyl-1,2-dihydro-4-[(4-isopropoxyphenyl)methyl]-5-methyl-3H-pyrazol-3-one (1.00 g) in acetonitrile (5 mL) and tetrahydrofuran (3 mL) was added potassium carbonate (0.719 g) under stirring at room temperature. After stirring the mixture at 50° C. for 1 hour, 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide (2.35 g) was added to the mixture. The mixture was stirred at 50° C. for 12 hours. After the reaction completed, the insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. 2-Propanol was added to the residue, and the mixture was re-concentrated under reduced pressure. The residue was recrystallized in the mixed solvent of water and methanol, the obtained crystals were dried under reduced pressure to give 1-acetyl-4-[(4-isopropoxyphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (2.19 g).

reactant | 1-acetyl-1,2-dihydro-4-[(4-isopropoxyphenyl)methyl]-5-methyl-3H-pyrazol-3-one | 1.00 g | C(C)(=O)N1NC(C(=C1C)CC1=CC=C(C=C1)OC(C)C)=O | C16H20N2O3
reactant | potassium carbonate | 0.719 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide | 2.35 g | C(C(C)(C)C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-acetyl-4-[(4-isopropoxyphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 2.19 g | C(C)(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C42H62N2O12
